US04440646
There were charged into the reaction vessel 23.0 grams (1.0 mole) of sodium metal along with 90 cc. of xylene and 80 cc. of tetrahydrofurane. The vessel was placed under a nitrogen blanket and 138.10 grams (1.0 mole) of diethyl phosphite added over a 35 minute period. An exothermic reaction ensued which was maintained at 62° C. by external cooling. After addition was complete the mixture was heated to 100° C. and held there until all of the sodium metal was gone. The mixture was cooled to 60° to 70° C. and 80.50 grams (0.5 mole) of benzal chloride were added gradually over a 25 minute period. An exothermic reaction ensued which was maintained at 60° to 70° C. by external cooling. The mixture was then heated for 4 hours at 70° to 75° C., cooled to 60° C. The liquid material was separated from the solid and the solid boiled 8 times with 100 cc. of benzene to extract the organic material. The eluate product was then distilled, terminal conditions being a pot temperature of 201° C., distillate temperature 125° C. and pressure 6 mm. The solid residue of 70 grams was tetraethyl phenyl methane diphosphonate. This product was hydrolyzed and the hydrolysis product purified as in Example 1 to obtain phenyl methane diphosphonic acid.

reactant | sodium | 1.0 mole, 23.0 grams | [Na] | Na
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | diethyl phosphite | 1.0 mole, 138.10 grams | P(OCC)(OCC)[O-]
reactant | benzal chloride | 0.5 mole, 80.50 grams | C(C1=CC=CC=C1)(Cl)Cl | C7H6Cl2
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | phenyl methane diphosphonic acid | C1(=CC=CC=C1)C(P(O)(=O)O)P(O)(=O)O | C7H10O6P2
